* RTD hardware window using portable, reviewable ngspice component models.
*
* The macros below are independently written portable ports based on the
* public TI PSpice/TINA releases. They preserve the pin order and safety
* behaviour used by this board; tolerance/PVT coverage remains in Python.

.include ../../simulation/models/REF2025_ngspice.lib
.include ../../simulation/models/TLV3201_ngspice.lib
.include ../../simulation/models/TPS3700_ngspice.lib
.include ../../simulation/models/SN74LVC1G08_ngspice.lib
.include ../../simulation/models/SN74LVC1G38_ngspice.lib

V_SAFE safety_3v3 0 3.3
V_MAX_BIAS max_bias 0 2.0
V_AVDD rtd_avdd 0 3.3
R_RREF max_bias refin_minus 430
R_RTD refin_minus 0 100

X_REFERENCE reference_vbias 0 safety_3v3 safety_3v3 reference_vref REF2025_NGSPICE
* 2026-07-27: r_low_top/r_high_top corrected from the fabricated 61.3k/5.93k
* (ERA-3AEB6132V/ERA-3AEB5931V, neither real) to 61.9k/5.9k
* (ERA-3AEB6192V/ERA-3AEB5901V, both confirmed real) -- see
* docs/evidence/2026-07-27-era-resistor-resolution.md.
R_LOW_TOP reference_vbias low_threshold 61.9k
R_LOW_BOTTOM low_threshold 0 10k
R_HIGH_TOP reference_vbias high_threshold 5.9k
R_HIGH_BOTTOM high_threshold 0 10k
X_LOW refin_minus low_threshold rtd_avdd 0 low_ok TLV3201_NGSPICE
X_HIGH high_threshold refin_minus rtd_avdd 0 high_ok TLV3201_NGSPICE

X_WINDOW_AND low_ok high_ok 0 window_ok rtd_avdd SN74LVC1G08_NGSPICE
R_WINDOW_OK_PULLDOWN window_ok 0 100k
* 2026-07-27: corrected from the fabricated 616k/ERA-3AEB6163V to
* 619k/ERA-6AEB6193V (confirmed real, 0805).
R_AVDD_TOP rtd_avdd rail_monitor_in 619k
R_AVDD_BOTTOM rail_monitor_in 0 100k
X_MONITOR safety_3v3 rail_monitor_in 0 rail_ok unused_monitor_out 0 TPS3700_NGSPICE
R_RAIL_OK_PULLUP safety_3v3 rail_ok 10k
X_FAULT rtd_hw_fault window_ok rail_ok rtd_avdd 0 SN74LVC1G38_NGSPICE
R_FAULT_PULLUP safety_3v3 rtd_hw_fault 10k

.control
set noaskquit

alter R_RTD resistance = 10
alter V_AVDD dc = 3.3
op
echo CASE_SHORT_10R
print v(rtd_hw_fault)

alter R_RTD resistance = 100
op
echo CASE_VALID_100R
print v(rtd_hw_fault)

alter R_RTD resistance = 194.1
op
echo CASE_VALID_194R1
print v(rtd_hw_fault)

alter R_RTD resistance = 300
op
echo CASE_OPEN_300R
print v(rtd_hw_fault)

alter R_RTD resistance = 100
alter V_AVDD dc = 2.75
op
echo CASE_AVDD_BROWNOUT
print v(rtd_hw_fault)

alter V_AVDD dc = 0
op
echo CASE_AVDD_LOSS
print v(rtd_hw_fault)
quit
.endc

.end
